2143-04-04 06:29:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 BLOOD CULTURED - At [**2143-4-3**] 09:00 PM
 URINE CULTURE - At [**2143-4-3**] 09:42 PM
 EKG - At [**2143-4-3**] 09:42 PM
 BLOOD CULTURED - At [**2143-4-4**] 12:00 AM
   UA Positive so started Cipro
   Allergies:
   Last dose of Antibiotics:
   Infusions:
   Heparin Sodium - 900 units/hour
   Propofol - 55 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2143-4-4**] 06:28 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38
C (100.4
   Tcurrent: 37.4
C (99.3
   HR: 66 (62 - 69) bpm
   BP: 151/60(83) {140/55(77) - 163/73(91)} mmHg
   RR: 20 (17 - 24) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                     92 mL
                                                                    255 mL
   PO:
             TF:
   IVF:
                                                                     92 mL
                                                                    195 mL
   Blood products:
   Total out:
                                                                    450 mL
                                                                    600 mL
   Urine:
                                                                    450 mL
                                                                    600 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -358 mL
                                                                   -345 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 348 (343 - 360) mL
   PS : 10 cmH2O
   RR (Spontaneous): 22
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 89
   PIP: 16 cmH2O
   SpO2: 98%
   ABG: 7.45/42/118/27/5
   Ve: 7.9 L/min
   PaO2 / FiO2: 236
   Physical Examination
   GENERAL: Elderly F intubated and sedated.
   HEENT: NCAT. Sclera anicteric. Conjunctiva were pink, no pallor or
   cyanosis of the oral mucosa. No xanthalesma.
   NECK: Supple with JVP of 7 cm.
   CARDIAC: RR, normal S1, soft S2. [**3-1**] SM RUSB ->carotids.
   LUNGS:  CTAB anteriorly no crackles, wheezes or rhonchi.
   ABDOMEN: Soft, NTND.
   EXTREMITIES: No c/c/e. No femoral bruits.
   SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.
   PULSES:
   Right: Carotid 2+ Femoral 2+ DP 2+ PT 2+
   Left: Carotid 2+ Femoral 2+ DP 2+ PT 2+
   Labs / Radiology
   342 K/uL
   12.8 g/dL
   118 mg/dL
   0.5 mg/dL
   27 mEq/L
   3.7 mEq/L
   11 mg/dL
   103 mEq/L
   140 mEq/L
   35.4 %
   10.4 K/uL
        [image002.jpg]
                             [**2143-4-3**]  08:59 PM
                             [**2143-4-3**]  09:35 PM
                             [**2143-4-4**]  01:49 AM
   WBC
   9.4
   Hct
   36.0
   Plt
   350
   Cr
   0.6
   TropT
   0.66
   TCO2
   29
   30
   Glucose
   142
   Other labs: PT / PTT / INR:14.1/67.9/1.2, CK / CKMB /
   Troponin-T:27/0.79, ALT / AST:29/30, Alk Phos / T Bili:120/0.7,
   Differential-Neuts:82.8 %, Lymph:12.4 %, Mono:4.1 %, Eos:0.5 %, Lactic
   Acid:1.7 mmol/L, Albumin:3.5 g/dL, Ca++:9.8 mg/dL, Mg++:2.3 mg/dL,
   PO4:3.9 mg/dL
   Assessment and Plan
   77 F w/ HTN, HL, AS, CHF, PVD presented with severe AS and NSTEMI
   intubated for suspected pulmonary edema.
   .
   # NSTEMI: Pt presented with CP to OSH which resolved with SL NTG. Also
   had enzyme leak and ?ekg changes.
   -Cath today
   -cont ASA 325, Lipitor 80, BB
   -will hold off ACE
   -cont heparin drip
   .
   # Severe AS: Valve area 1 cm2, didnt find gradient in OSH records
   -CT [**Doctor First Name 91**] c/s in AM
   -avoid vasodilators
   -consider repeat echo in AM
   .
   # Resp failure:  Likely secondary to pulmonary edema with possible
   underlying lung disease and questionable
   -cont on PS for now. can switch to AC if pt doesnt tolerate it
   -f/u CXR
   -Diurese w/ lasix prn but be careful abt not dropping the preload too
   much in the setting of AS
   -Chest CT to eval for possible malignancy.
   .
   # Fever: fever to 100.4. no WBC count
   -f/u bld cx, Ucx, CXR
   -started cipro for positive UTI on UA
   .
   # HTN: cont metoprolol, amlodipine
   .
   # Depression: celexa
   .
   # CODE: full. HCP [**Name (NI) 3833**] [**Name (NI) 4557**] (home) [**Telephone/Fax (1) 5636**], (cell)
   [**Telephone/Fax (1) 5637**], ([**Doctor First Name 5638**] home) [**Telephone/Fax (1) 5639**]
   ICU Care
   Nutrition: TF
   Glycemic Control:
   Lines:
   22 Gauge - [**2143-4-3**] 09:43 PM
   20 Gauge - [**2143-4-3**] 09:45 PM
   Prophylaxis:
   DVT: : IV heparin, bowel regimen
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:  CCU
   Disposition: Pending

2143-04-06 06:34:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 BRONCHOSCOPY - At [**2143-4-5**] 10:17 AM
 BAL FLUID CULTURE - At [**2143-4-5**] 10:20 AM
 CARDIAC CATH - At [**2143-4-5**] 02:30 PM
   [**2143-4-5**]:
   - Changed cipro to zosyn as continuing to spike fevers and increasing
   leukocytosis with questionable LLL infiltrate on CXR, ID approved
   - Bronch by IP today to eval for possible bronchial tumor, no evidence,
   sent BAL
   - Prehydration D51/2NS for cath today, gentle given pulmonary edema
   - Cardiac Cath showed RCA 60% mid stenosis with diffuse irregularities,
   LCx with aneurysm and 70% mid lesion, D2 80% proximal stenosis, LAD 40%
   after D2 take off.
   - Discontinued Heparin drip
   - Will attempt to extubate in AM, RSBI in AM
   - Plan for family meeting tomorrow
   - Gave 20mg IV lasix as 500cc positive at 10pm then gave another 20mg
   IV lasix in am because was still positive.
   - OG tube placed
   Allergies:
   Anesthesia Tray (Miscell)
   Unknown;
   Last dose of Antibiotics:
   Ciprofloxacin - [**2143-4-5**] 12:09 AM
   Piperacillin - [**2143-4-5**] 02:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2143-4-5**] 10:00 PM
   Infusions:
   Propofol - 40 mcg/Kg/min
   Other ICU medications:
   Famotidine (Pepcid) - [**2143-4-5**] 08:30 PM
   Furosemide (Lasix) - [**2143-4-5**] 10:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2143-4-6**] 06:34 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.6
   Tcurrent: 37.3
C (99.2
   HR: 74 (56 - 76) bpm
   BP: 146/57(79) {101/42(57) - 172/64(91)} mmHg
   RR: 15 (12 - 28) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 65 Inch
             Total In:
                                                                  1,796 mL
                                                                     93 mL
   PO:
             TF:
   IVF:
                                                                  1,486 mL
                                                                     93 mL
   Blood products:
   Total out:
                                                                  1,416 mL
                                                                    460 mL
   Urine:
                                                                  1,416 mL
                                                                    460 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    380 mL
                                                                   -367 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 472 (311 - 472) mL
   PS : 10 cmH2O
   RR (Spontaneous): 19
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 97
   Plateau: 15 cmH2O
   SpO2: 99%
   ABG: ////
   Ve: 7.2 L/min
   Physical Examination
   GENERAL: Elderly F intubated and sedated.
   HEENT: NCAT. Sclera anicteric. Conjunctiva were pink, no pallor or
   cyanosis of the oral mucosa. No xanthalesma.
   NECK: Supple with JVP of 7 cm.
   CARDIAC: RR, normal S1, soft S2. [**3-1**] SM RUSB ->carotids.
   LUNGS:  CTAB anteriorly no crackles, wheezes or rhonchi.
   ABDOMEN: Soft, NTND.
   EXTREMITIES: No c/c/e. No femoral bruits.
   SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.
   PULSES:
   Right: Carotid 2+ Femoral 2+ DP 2+ PT 2+
   Left: Carotid 2+ Femoral 2+ DP 2+ PT 2+
   Labs / Radiology
   362 K/uL
   12.4 g/dL
   117 mg/dL
   0.6 mg/dL
   27 mEq/L
   3.9 mEq/L
   12 mg/dL
   101 mEq/L
   137 mEq/L
   36.4 %
   12.1 K/uL
        [image002.jpg]
                             [**2143-4-3**]  08:59 PM
                             [**2143-4-3**]  09:35 PM
                             [**2143-4-4**]  01:49 AM
                             [**2143-4-4**]  05:34 AM
                             [**2143-4-5**]  05:47 AM
   WBC
   9.4
   10.4
   12.1
   Hct
   36.0
   35.8
   36.4
   Plt
   350
   342
   362
   Cr
   0.6
   0.5
   0.6
   TropT
   0.66
   0.79
   TCO2
   29
   30
   Glucose
   142
   118
   117
   Other labs: PT / PTT / INR:15.1/89.4/1.3, CK / CKMB /
   Troponin-T:27//0.79, ALT / AST:29/30, Alk Phos / T Bili:120/0.7,
   Differential-Neuts:82.8 %, Lymph:12.4 %, Mono:4.1 %, Eos:0.5 %, Lactic
   Acid:1.7 mmol/L, Albumin:3.5 g/dL, Ca++:9.3 mg/dL, Mg++:2.4 mg/dL,
   PO4:4.2 mg/dL
   Assessment and Plan
   77 F w/ HTN, HL, AS, CHF, PVD presented with severe AS and NSTEMI
   intubated for suspected pulmonary edema.
   .
   # NSTEMI: Pt presented with CP to OSH which resolved with SL NTG. Also
   had enzyme leak and ?ekg changes.
   -Cath yesterday showed 3 vessel disease, but likely only intervention
   would be D2 in CABG
   -cont ASA 325, Lipitor 80, BB
   -will hold off ACE because of AS
   -discontinued heparin drip yesterday
   .
   # Severe AS: Valve area 0.6 cm2 on TTE here
   -CT [**Doctor First Name 91**] consulted, likely to have AVR with CABG next week, however
   family unclear of patient
s wishes, will attempt to extubated patient
   today and have a family meeting
   -avoid vasodilators
   .
   # Resp failure:  Likely secondary to PNA with underlying lung disease
   complicated by AS, NSTEMI, and pulmonary edema
   -cont on PS for now. Attempt to extubate this AM
   -f/u CXR
   -Diurese w/ lasix prn but be careful abt not dropping the preload too
   much in the setting of AS
   -Chest CT to eval for possible malignancy.
   -Start nebs today
   .
   # Fever: fever to 100.4. WBC count increasing. [**Month (only) 8**] be [**1-28**] PNA at this
   point.
   - Changed antibiotics to zosyn to cover for suspected aspiration.  If
   spikes today should add vancomycin for HAP/VAP
   - f/u bld cx
   - GNR in urine->will be covered by zosyn
   ..
   # HTN: cont metoprolol. Will d/c the amlodipine given vasodilatory
   effect and concern for AS and preload dependence
   .
   # Depression: celexa
   .
   # CODE: full. HCP [**Name (NI) 3833**] [**Name (NI) 4557**] (home) [**Telephone/Fax (1) 5636**], (cell)
   [**Telephone/Fax (1) 5637**], ([**Doctor First Name 5638**] home) [**Telephone/Fax (1) 5639**]
   ICU Care
   Nutrition:  TFs
   Glycemic Control:
   Lines:
   22 Gauge - [**2143-4-3**] 09:43 PM
   20 Gauge - [**2143-4-5**] 05:50 PM
   Prophylaxis:
   DVT:  Heparin
   Stress ulcer: famotidine
   VAP:  mouth care, aspiration precautions
   Comments:
   Communication:  Comments:
   Code status:  Full code
   Disposition:  CCU
   ------ Protected Section ------
   Reviewed overnight course.C.Cath findings and examined Pt
   Pt can be extubated today.Agree with Dr.[**Last Name (STitle) 397**]
s notes and plan of
   Rx.
   Will discuss with Pt Cardiac Surgery post extubation.
   Spent 45 mins on case.
   [**First Name4 (NamePattern1) **] [**Last Name (NamePattern1) 4425**]
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Name (NI) 4425**]
   on:[**2143-4-6**] 10:25 ------

2143-04-07 06:15:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Extubated
   - Advanced diet
   - Attempted to discuss surgery with her but will need to be readdressed
   because she was still a bit sleepy from extubation medications
   - Had palmar rash:erythematous, not raised, diffuse with small
   petechiae on only the hypothenar eminence.
   Allergies:
   Anesthesia Tray (Miscell)
   Unknown;
   Last dose of Antibiotics:
   Ciprofloxacin - [**2143-4-5**] 12:09 AM
   Piperacillin - [**2143-4-5**] 02:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2143-4-6**] 02:00 PM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2143-4-6**] 08:00 AM
   Furosemide (Lasix) - [**2143-4-6**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2143-4-7**] 06:14 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 36.6
C (97.8
   HR: 69 (67 - 83) bpm
   BP: 135/57(77) {102/43(62) - 153/71(90)} mmHg
   RR: 16 (10 - 24) insp/min
   SpO2: 97%
   Heart rhythm: SB (Sinus Bradycardia)
   Wgt (current): 57.9 kg (admission): 59 kg
   Height: 65 Inch
             Total In:
                                                                  1,243 mL
                                                                     62 mL
   PO:
                                                                    660 mL
             TF:
   IVF:
                                                                    518 mL
                                                                     62 mL
   Blood products:
   Total out:
                                                                  2,205 mL
                                                                    460 mL
   Urine:
                                                                  2,205 mL
                                                                    460 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -962 mL
                                                                   -398 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: PSV/SBT
   Vt (Spontaneous): 211 (211 - 211) mL
   PS : 5 cmH2O
   RR (Spontaneous): 12
   PEEP: 0 cmH2O
   FiO2: 50%
   SpO2: 97%
   ABG: ////
   Ve: 3.8 L/min
   Physical Examination
   GENERAL: Elderly F in NAD
   HEENT: NCAT. Sclera anicteric. Conjunctiva were pink, no pallor or
   cyanosis of the oral mucosa. No xanthalesma.
   NECK: Supple with JVP of 7 cm.
   CARDIAC: RR, normal S1, soft S2. [**3-1**] SM RUSB ->carotids.
   LUNGS:  Crackles bilateral bases that clear with coughing, no wheezes
   or rhonchi.
   ABDOMEN: Soft, NTND.
   EXTREMITIES: No c/c/e. No femoral bruits.
   SKIN: erythematous rash on palms stable from prior exam
   PULSES:
   Right: Carotid 2+ Femoral 2+ DP 2+ PT 2+
   Left: Carotid 2+ Femoral 2+ DP 2+ PT 2+
   Labs / Radiology
   328 K/uL
   12.3 g/dL
   112 mg/dL
   0.6 mg/dL
   27 mEq/L
   3.6 mEq/L
   15 mg/dL
   100 mEq/L
   139 mEq/L
   35.3 %
   10.1 K/uL
        [image002.jpg]
                             [**2143-4-3**]  08:59 PM
                             [**2143-4-3**]  09:35 PM
                             [**2143-4-4**]  01:49 AM
                             [**2143-4-4**]  05:34 AM
                             [**2143-4-5**]  05:47 AM
                             [**2143-4-6**]  04:36 AM
   WBC
   9.4
   10.4
   12.1
   10.1
   Hct
   36.0
   35.8
   36.4
   35.3
   Plt
   350
   342
   362
   328
   Cr
   0.6
   0.5
   0.6
   0.6
   TropT
   0.66
   0.79
   TCO2
   29
   30
   Glucose
   142
   118
   117
   112
   Other labs: PT / PTT / INR:13.8/30.9/1.2, CK / CKMB /
   Troponin-T:27//0.79, ALT / AST:29/30, Alk Phos / T Bili:120/0.7,
   Differential-Neuts:82.8 %, Lymph:12.4 %, Mono:4.1 %, Eos:0.5 %, Lactic
   Acid:1.7 mmol/L, Albumin:3.5 g/dL, Ca++:9.0 mg/dL, Mg++:2.1 mg/dL,
   PO4:4.1 mg/dL
   Assessment and Plan
   77 F w/ HTN, HL, AS, CHF, PVD presented with severe AS and NSTEMI
   intubated for suspected pulmonary edema.
   .
   # NSTEMI: Pt presented with CP to OSH which resolved with SL NTG. Also
   had enzyme leak and ?ekg changes.
   -cath showed 3 vessel disease, but likely only intervention would be D2
   in CABG
   -cont ASA 325, Lipitor 80, BB
   -will hold off ACE because of AS
   -hep gtt was discontinued as thought likely CP from AS
   # Severe AS: Valve area 0.6 cm2 on TTE here
   -CT [**Doctor First Name 91**] consulted, likely to have AVR with CABG. Patient wants to go
   home first, family wants her to have it now. Per patient CT surgery
   said she could go home first.
   - Will confirm plan with Ct sgy
   -avoid vasodilators
   - pt considering options, would like to go home and come back for
   surgery later
   # Resp failure:  Likely secondary to PNA with underlying lung disease
   complicated by AS, NSTEMI, and pulmonary edema
   Extubated without difficulty yesterday. Satting well on NC. Lungs have
   crackles that clear with cough.
   -Diurese w/ lasix prn but be careful abt not dropping the preload too
   much in the setting of AS
   -Continue nebs
   -Consider repeat cxr in a few days to see if cleared as that would
   point more toward aspiration than HAP and patient could be weaned from
   abx.
   # Fever: Fever curve trending down after changing to zosyn.
   - If spikes today should add vancomycin for HAP/VAP
   - f/u bld cx
   - GNR in urine->will be covered by zosyn
   # HTN: cont metoprolol. [**Month (only) 8**] increase dose slightly to have better bp
   control but do not want to drop preload too much so will titrate
   carefully.
   # Rash: Per patient she has this rash at all times and its not new.
   - Will monitor for progression.
   # Depression: celexa
   # CODE: full. HCP [**Name (NI) 3833**] [**Name (NI) 4557**] (home) [**Telephone/Fax (1) 5636**], (cell)
   [**Telephone/Fax (1) 5637**], ([**Doctor First Name 5638**] home) [**Telephone/Fax (1) 5639**]
   ICU Care
   Nutrition:  PO HH diet
   Glycemic Control:
   Lines:
   22 Gauge - [**2143-4-3**] 09:43 PM
   20 Gauge - [**2143-4-5**] 05:50 PM
   Prophylaxis:
   DVT:  Heparin
   Stress ulcer: famotidine
   Communication:  With patient and family
   Code status:  Full code
   Disposition:  CCU
   ------ Protected Section ------
   Reviewed overnihgt progress.Examined Pt and had externsive discussion
   with Pt [**Name (NI) **]: Aortic valve Replacement + Cabg.
   She fully understands and if possible would like to go home to attend
   to percsonal matters before surgery if possible.
   I will speak to Dr.[**Last Name (STitle) **] re surgical date.
   Agree with notes of Dr.[**Last Name (STitle) **].
   Spent 45 mins over case.
   [**First Name4 (NamePattern1) **] [**Last Name (NamePattern1) 4425**]
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Name (NI) 4425**]
   on:[**2143-4-7**] 09:33 ------